
.subckt AND2 A B OUT Vdd GND
    Mp1 X A Vdd Vdd CMOSP W = {wp1} L = {lp1}
    + AS = {5*wp1*LAMBDA} PS = {10*LAMBDA + 2*wp1} AD = {5*wp1*LAMBDA} PD = {10*LAMBDA + 2*wp1}
    Mp2 X B Vdd Vdd CMOSP W = {wp2} L = {lp2}
    + AS = {5*wp2*LAMBDA} PS = {10*LAMBDA + 2*wp2} AD = {5*wp2*LAMBDA} PD = {10*LAMBDA + 2*wp2}
    Mn1 X A Y GND CMOSN W = {wn1} L = {ln1}
    + AS = {5*wn1*LAMBDA} PS = {10*LAMBDA + 2*wn1} AD = {5*wn1*LAMBDA} PD = {10*LAMBDA + 2*wn1}
    Mn2 Y B GND GND CMOSN W = {wn2} L = {ln2}
    + AS = {5*wn2*LAMBDA} PS = {10*LAMBDA + 2*wn2} AD = {5*wn2*LAMBDA} PD = {10*LAMBDA + 2*wn2}
    * NOT GATE
    Mp3 OUT X Vdd Vdd CMOSP W = {wp3} L = {lp3}
    + AS = {5*wp3*LAMBDA} PS = {10*LAMBDA + 2*wp3} AD = {5*wp3*LAMBDA} PD = {10*LAMBDA + 2*wp3}
    Mn3 OUT X GND GND CMOSN W = {wn3} L = {ln3}
    + AS = {5*wn3*LAMBDA} PS = {10*LAMBDA + 2*wn3} AD = {5*wn3*LAMBDA} PD = {10*LAMBDA + 2*wn3}
.ends AND2