
.subckt Enable A3 A2 A1 A0 B3 B2 B1 B0 EN ENA3 ENA2 ENA1 ENA0 ENB3 ENB2 ENB1 ENB0 Vdd GND
    X7 EN A3 ENA3 Vdd GND AND2
    X8 EN A2 ENA2 Vdd GND AND2
    X9 EN A1 ENA1 Vdd GND AND2
    X10 EN A0 ENA0 Vdd GND AND2
    X11 EN B3 ENB3 Vdd GND AND2
    X12 EN B2 ENB2 Vdd GND AND2
    X13 EN B1 ENB1 Vdd GND AND2
    X14 EN B0 ENB0 Vdd GND AND2
.ends Enable