
.subckt FA A B Cin S C Vdd GND
    X15 A B S1 Vdd GND XOR2
    X16 S1 Cin S Vdd GND XOR2
    X17 A B C2 Vdd GND AND2
    X18 S1 Cin C1 Vdd GND AND2
    X19 C1 C2 C Vdd GND OR2
.ends FA