
.subckt NAND4 A B C D OUT Vdd GND
    Mp1 OUT A Vdd Vdd CMOSP W = {wp1} L = {lp1}
    + AS = {5*wp1*LAMBDA} PS = {10*LAMBDA + 2*wp1} AD = {5*wp1*LAMBDA} PD = {10*LAMBDA + 2*wp1}
    Mp2 OUT B Vdd Vdd CMOSP W = {wp2} L = {lp2}
    + AS = {5*wp2*LAMBDA} PS = {10*LAMBDA + 2*wp2} AD = {5*wp2*LAMBDA} PD = {10*LAMBDA + 2*wp2}
    Mp3 OUT C Vdd Vdd CMOSP W = {wp3} L = {lp3}
    + AS = {5*wp3*LAMBDA} PS = {10*LAMBDA + 2*wp3} AD = {5*wp3*LAMBDA} PD = {10*LAMBDA + 2*wp3}
    Mp4 OUT D Vdd Vdd CMOSP W = {wp4} L = {lp4}
    + AS = {5*wp4*LAMBDA} PS = {10*LAMBDA + 2*wp4} AD = {5*wp4*LAMBDA} PD = {10*LAMBDA + 2*wp4}
    Mn1 OUT A X GND CMOSN W = {wn1} L = {ln1}
    + AS = {5*wn1*LAMBDA} PS = {10*LAMBDA + 2*wn1} AD = {5*wn1*LAMBDA} PD = {10*LAMBDA + 2*wn1}
    Mn2 X B Y GND CMOSN W = {wn2} L = {ln2}
    + AS = {5*wn2*LAMBDA} PS = {10*LAMBDA + 2*wn2} AD = {5*wn2*LAMBDA} PD = {10*LAMBDA + 2*wn2}
    Mn3 Y C Z GND CMOSN W = {wn3} L = {ln3}
    + AS = {5*wn3*LAMBDA} PS = {10*LAMBDA + 2*wn3} AD = {5*wn3*LAMBDA} PD = {10*LAMBDA + 2*wn3}
    Mn4 Z D GND GND CMOSN W = {wn4} L = {ln4}
    + AS = {5*wn4*LAMBDA} PS = {10*LAMBDA + 2*wn4} AD = {5*wn4*LAMBDA} PD = {10*LAMBDA + 2*wn4}
.ends NAND4